US06566366B1
a) (2S)-3-((5-(2-Methoxycarbonyl-ethyl)-thiophene-2-carbonyl)-amino)-2-(4-trifluoromethylphenyl-sulfonylamino)-propionic Acid tert-Butyl Ester
A solution of 0.197 g (0.5 mmol) of (2S)-2-amino-3-((5-(2-methoxycarbonyl-ethyl)-thiophene-2-carbonyl)-amino)-propionic acid tert-butyl ester hydrochloride (example 15, step a) and triethylamine (0.14 ml, 1 mmol) in dichloromethane (5 ml) was cooled to 0° C. in an ice bath and a solution of 0.250 g (1 mmol) of 4-trifluoromethylphenylsulfonyl chloride in dichloromethane (5 ml) was added. Then the reaction mixture was stirred for 3 hours at room temperature. After removal of the solvent in vacuo the residue was absorbed onto silica gel and chromatographed with ethyl acetate/cyclohexane (1/1) to yield 0.127 g (45%) of the title compound as a white amorphous solid.

reactant | (2S)-2-amino-3-((5-(2-methoxycarbonyl-ethyl)-thiophene-2-carbonyl)-amino)-propionic acid tert-butyl ester hydrochloride | 0.5 mmol, 0.197 g | Cl.C(C)(C)(C)OC([C@H](CNC(=O)C=1SC(=CC1)CCC(=O)OC)N)=O
reactant | triethylamine | 1 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylphenylsulfonyl chloride | 1 mmol, 0.250 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2S)-3-((5-(2-Methoxycarbonyl-ethyl)-thiophene-2-carbonyl)-amino)-2-(4-trifluoromethylphenyl-sulfonylamino)-propionic Acid tert-Butyl Ester | 0.127 g, 45% | C(C)(C)(C)OC([C@H](CNC(=O)C=1SC(=CC1)CCC(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C23H27F3N2O7S2
